US08703810B2
To a solution of 1-(2,5-dimethoxyphenyl)-2-(3-methoxyphenyl)ethanone (3.35 g, 11.7 mmol) in DCM (50 mL) at −78° C., BBr3 (1M in DCM, 48.0 mL, 48.0 mmol) was added dropwise. The reaction mixture was warmed to 0° C., stirred for 30 min, re-cooled to −78° C., and then quenched with methanol (15 mL). The reaction mixture was warmed to room temperature, concentrated under reduced pressure and purified on a silica gel column to give 1-(2,5-dihydroxyphenyl)-2-(3-hydroxyphenyl)ethanone (1.78 g, 62%) as a yellow solid. 1H NMR (DMSO-d6): δ 11.24 (s, 1H), 9.34 (s, 1H), 9.20 (s, 1H), 7.26 (m, 1H), 7.10 (t, 1H), 6.98 (dd, 1H), 6.83 (d, 1H), 6.70 (m, 3H), 4.24 (s, 2H).

reactant | 1-(2,5-dimethoxyphenyl)-2-(3-methoxyphenyl)ethanone | 11.7 mmol, 3.35 g | COC1=C(C=C(C=C1)OC)C(CC1=CC(=CC=C1)OC)=O | C17H18O4
reactant | BBr3 | 48.0 mmol, 1M, 48.0 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-(2,5-dihydroxyphenyl)-2-(3-hydroxyphenyl)ethanone | 1.78 g, 62% | OC1=C(C=C(C=C1)O)C(CC1=CC(=CC=C1)O)=O | C14H12O4
